US07256198B2
8-[((2S)-2-{[(2-Bromopyridin-3-yl)oxy]methyl}pyrrolidin-1-yl)sulfonyl]-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
To a solution of 2-bromo pyridinol (0.089 g, 0.510 mmol) in THF (3 mL) was added NaH (60% dispersion in mineral oil) (0.020 g, 0.085 mmol) and the reaction was stirred at rt for 1 hr. {(2S)-1-[(3′,3′-Dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate (0.100 g, 0.170 mmol) in THF (2 mL)/DMF (2 mL) was added and the reaction was heated overnight at 100° C. The reaction was quenched with water and extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, filtered, concentrated and purified on Biotage Si 12+M cartridge silica gel eluting with acetone/hexane (30/70). The resulting product was dissolved in CH2Cl2 (3 mL) and methanesulfonic acid (2 mL) was added and the solution stirred at 35° C. overnight. The reaction mixture was poured onto ice, basified to pH 11 with ammonium hydroxide and extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, filtered, concentrated and purified on Biotage Si 12+M cartridge silica gel eluting with acetone/hexane (30/70) to give the title compound as a yellow foam (0.058 g, 56%). NMR (400 Mz, DMSO-d6): consistent. MS: (ESI+) m/z 533.1 [M+H].

reactant | 2-bromo pyridinol | 0.510 mmol, 0.089 g | BrC1(NC=CC=C1)O | C5H6BrNO
reactant | NaH | 0.085 mmol, 0.020 g | [H-].[Na+]
reactant | {(2S)-1-[(3′,3′-Dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate | 0.170 mmol, 0.100 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C3(C=4N(C2C=C1)CC(CN4)(C)C)OCCCO3 | C28H35N3O7S2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 8-[((2S)-2-{[(2-Bromopyridin-3-yl)oxy]methyl}pyrrolidin-1-yl)sulfonyl]-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.058 g, 56% | BrC1=NC=CC=C1OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C(C=3N(C2C=C1)CC(CN3)(C)C)=O | C23H25BrN4O4S
